US05639752
3-(2-Dimethylaminoethyl)-5-(3-phenylcarbonylaminopyrid-2-ylamino)-1H-indole
To a stirred solution of 3-(2-dimethylaminoethyl)-5-(3-aminopyrid-2-ylamino)-1H-indole (0.157 g, 0.53 mmol) and triethylamine (74 μL, 0.54 mmol, 1.0 eq) in anhydrous tetrahydrofuran (3 mL) was added dropwise benzoyl chloride (62 μL, 0.54 mmol, 1.0 eq). The resulting reaction mixture was stirred at room temperature under nitrogen for 15 minutes. A saturated solution of sodium hydrogen carbonate (10 mL) was added, and this aqueous mixture was extracted with ethyl acetate (3×10 mL). The organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure. The residue was triturated in diethyl ether to afford the title compound (0.082 g, 39%) as an amorphous solid: 13C NMR (DMSO-d6) δ166.5, 151.9, 144.5, 134.5; 132.7, 132.5, 131.6, 128.3, 128.0, 127.2, 122.8, 119.6, 117.3, 113.3, 112.1, 110.8, 110.4, 59.9, 45.0, 23.1; LRMS (m/z, relative intensity) 399 (M+, 100), 354 (33), 249 (10), 235 (18), 204 (40), 160 (86); HRMS calculated for C24H25N5O 399.2062, found 399.2080.

reactant | 3-(2-dimethylaminoethyl)-5-(3-aminopyrid-2-ylamino)-1H-indole | 0.53 mmol, 0.157 g | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1N)C | C17H21N5
reactant | triethylamine | 0.54 mmol, 74 μL, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.54 mmol, 62 μL, 1.0 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(2-Dimethylaminoethyl)-5-(3-phenylcarbonylaminopyrid-2-ylamino)-1H-indole | 0.082 g, 39% | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1NC(=O)C1=CC=CC=C1)C | C24H25N5O
